US07371747B2
Synthesis of trans-N-(cyanomethyl)-2-({[4-(methylsulfanyl)phenyl]sulfanyl}-methyl)cyclopentanecarboxamide
trans-N-(Cyanomethyl)-2-(hydroxymethyl)cyclopentane carboxamide (11 mg, 63 mmol) and triphenylphosphine (19 mg, 72 mmol) were placed in a 1 mL vial and dimethylformamide (0.15 mL) was added. The reaction mixture was cooled to 0° C. and diisopropyl azodicarboxylate (14 μL, 69 μmol) was added. After stirring for 10 min., 4-(methylsulfanyl)thiophenol (11 μL, 72 μmol) was added and the reaction mixture was stirred at ambient temperature for 1 h. The reaction mixture was partitioned between ethyl acetate (10 mL) and 1:1 water:saturated aqueous sodium chloride (10 mL). The product was extracted into ethyl acetate. The combined organic phase was dried with anhydrous sodium sulfate and then concentrated on a rotary evaporator. Chromatography of the residue on silica gel eluting with 2:3 ethyl acetate:hexanes provided the title compound as a colorless solid. 1H NMR (500 MHz, acetone-d6): δ=7.75 (1H, br s), 7.29 (2H, d), 7.21 (2H, d), 4.21 (2H, d), 3.10 (1H, dd), 2.89 (1H, dd), 2.51 (1H, q), 2.46 (3H, s), 2.43 (1H, m), 1.99-1.90 (2H, m), 1.75 (1H, m), 1.70-1.61 (2H, m), 1.40 (1H, m). MS [ESI, (M−H)−] m/z=319.2 amu

reactant | trans-N-(Cyanomethyl)-2-(hydroxymethyl)cyclopentane carboxamide | 63 mmol, 11 mg | C(#N)CNC(=O)[C@H]1[C@@H](CCC1)CO | C9H14N2O2
reactant | triphenylphosphine | 72 mmol, 19 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 69 μmol, 14 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 4-(methylsulfanyl)thiophenol | 72 μmol, 11 μL | CSC1=CC=C(C=C1)S | C7H8S2
solvent | dimethylformamide | 0.15 mL | CN(C=O)C | C3H7NO
product | trans-N-(cyanomethyl)-2-({[4-(methylsulfanyl)phenyl]sulfanyl}-methyl)cyclopentanecarboxamide | C(#N)CNC(=O)[C@H]1[C@@H](CCC1)CSC1=CC=C(C=C1)SC | C16H20N2OS2
